US04188397
2,2'-[1,2-Propanediylbis(thio)]bis[4,5-bis(4-fluorophenyl)-1H-imidazole]
A solution of 4,5-bis(4-fluorophenyl)-1H-imidazole-2-thione (10 g, 0.035 mol) and 1,2-dibromopropane (3.5 g, 0.017 mol) in N,N-dimethylformamide (25 ml) was refluxed for two hours, then cooled. The precipitate was collected, treated with hot chloroform and recrystallized from isopropanol to give the title compound as its dihydrobromide salt, m.p. 243°-245°.

reactant | 4,5-bis(4-fluorophenyl)-1H-imidazole-2-thione | 0.035 mol, 10 g | FC1=CC=C(C=C1)C=1NC(NC1C1=CC=C(C=C1)F)=S | C15H10F2N2S
reactant | 1,2-dibromopropane | 0.017 mol, 3.5 g | BrCC(C)Br | C3H6Br2
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2,2'-[1,2-Propanediylbis(thio)]bis[4,5-bis(4-fluorophenyl)-1H-imidazole] | C(C(C)SC=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)SC=1NC(=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C33H24F4N4S2
